US04168964
3-[1-(2-phenyl-4-imidazolyl)ethylidene]carbazic acid methyl ester
By the method of Example 104, the title product is prepared from methyl-2-phenyl-4-imidazolyl ketone and methyl carbazate. The product is obtained in 91% yield, m.p. 226.5°-227° C.

reactant | methyl-2-phenyl-4-imidazolyl ketone | CC1=C(N=C(N1)C1=CC=CC=C1)C(=O)C=1N=C(NC1C)C1=CC=CC=C1 | C21H18N4O
reactant | methyl carbazate | C(NN)(=O)OC | C2H6N2O2
product | 3-[1-(2-phenyl-4-imidazolyl)ethylidene]carbazic acid methyl ester | 91% yield | COC(NN=C(C)C=1N=C(NC1)C1=CC=CC=C1)=O | C13H14N4O2
